US05086065
3(1,4-dimethoxybenzene-2-yl)prop-2E-enoic acid
2,5-Dimethoxybenzaldehyde (1.7 g) was dissolved in pyridine (10 ml). Piperidine (0.2 ml) and malonic acid (2.0 g) were added to the solution. The solution was stirred for 1 hour at 85° C. and then for 3 hr. at 110° C. The solution was cooled. Water (80 ml) was added to the solution. Conc. hydrochloric acid was added to the solution until pH of the solution was down to about 2. The crystals were deposited. The crystals were separated from the solution by filtration, washed with water and dried to give the title compound (1.97 g) having the following physical data.

reactant | 2,5-Dimethoxybenzaldehyde | 1.7 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | Piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | malonic acid | 2.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | 80 ml | O | H2O
product | 3(1,4-dimethoxybenzene-2-yl)prop-2E-enoic acid | 1.97 g | COC1=C(C=C(C=C1)OC)/C=C/C(=O)O | C11H12O4
